US06187786B1
Triethylamine (9.2 ml) was added at room temperature to a solution of indoline (20 g) in DCM (200 ml) and the mixture was cooled till 5° C. A solution of m-chloro-cinnamoyl chloride (40 g) in DCM (100 ml) was added dropwise and the mixture was stirred at room temperature for 48 hours. Water was added, the organic layer was decanted, washed with water, dried, filtered off and evaporated. The residue was purified by column chromatography over silica gel (eluent: cyclohexane/ethyl acetate 90/10), yielding 41 g (73%) of 1-[3-(3-chlorophenyl)-1-oxo-2-propenyl]-2,3-dihydro-1H-indole (interm. 37).

reactant | Triethylamine | 9.2 ml | C(C)N(CC)CC | C6H15N
reactant | indoline | 20 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | m-chloro-cinnamoyl chloride | 40 g | ClC=1C=C(C=CC(=O)Cl)C=CC1 | C9H6Cl2O
reactant | Water | O | H2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(3-chlorophenyl)-1-oxo-2-propenyl]-2,3-dihydro-1H-indole | 41 g, 73% | ClC=1C=C(C=CC1)C=CC(=O)N1CCC2=CC=CC=C12 | C17H14ClNO
